US07365095B2
To a solution of (2R)-2-azidomethyl-8-(2,6-dichloro-phenyl)-2H-chromene (120 mg, 0.361 mmol) in tetrahydrofuran (5 mL) and water (0.5 mL) was added polymer-bound triphenylphosphine (˜3 mmol/g, 0.361 g, 1.084 mmol) and the reaction mixture stirred at room temperature for 43 hours. The brown suspension was then filtered through celite, the filter cake washed with ethyl acetate (50 mL) and the combined filtrates concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 0 to 5% ammonia saturated methanol solution in dichloromethane gave 100 mg (90%) of {[(2R)-8-(2,6-dichlorophenyl)-2H-chromen-2-yl]methyl}amine as a colorless syrup. The product was dissolved in 2-propanol (1 mL) and diethyl ether (2 mL), a solution of hydrogen chloride (1.0 M in diethyl ether, 0.326 mL, 0.326 mmol) was added followed hexane (7 mL). The resulting white precipitate was filtered to afford 100 mg (80%) of {[(2R)-8-(2,6-dichlorophenyl)-2H-chromen-2-yl]methyl}amine hydrochloride as an off-white solid.

reactant | (2R)-2-azidomethyl-8-(2,6-dichloro-phenyl)-2H-chromene | 0.361 mmol, 120 mg | N(=[N+]=[N-])C[C@@H]1OC2=C(C=CC=C2C=C1)C1=C(C=CC=C1Cl)Cl | C16H11Cl2N3O
reactant | triphenylphosphine | 1.084 mmol, 0.361 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | {[(2R)-8-(2,6-dichlorophenyl)-2H-chromen-2-yl]methyl}amine | 100 mg, 90% | ClC1=C(C(=CC=C1)Cl)C=1C=CC=C2C=C[C@@H](OC12)CN | C16H13Cl2NO
